US08026244B2
(a) 3-Ethoxy-2-methyl-4H-pyran-4-one
3-Hydroxy-2-methyl-4-pyrone (10 g, 79.4 mmol) was dissolved in methanol (10 mL) and sodium hydroxide (3.49 g, 87.3 mmol) in water (8 mL) was added, followed by ethyl iodide (6.97 mL, 87.3 mmol). The reaction mixture was stirred under reflux overnight. The reaction mixture was then partitioned between water (50 mL) and CH2Cl2 (100 mL). The organic phase was washed with sodium hydroxide (5%, aq.), water, dried (MgSO4) and evaporated to give the title product (8.7 g, 71%) as a solid. The crude product was used in the next step without further purification.

reactant | 3-Hydroxy-2-methyl-4-pyrone | 79.4 mmol, 10 g | OC1=C(OC=CC1=O)C | C6H6O3
reactant | sodium hydroxide | 87.3 mmol, 3.49 g | [OH-].[Na+]
reactant | ethyl iodide | 87.3 mmol, 6.97 mL | C(C)I | C2H5I
solvent | methanol | 10 mL | CO | CH4O
solvent | water | 8 mL | O | H2O
product | 3-Ethoxy-2-methyl-4H-pyran-4-one | 8.7 g, 71% | C(C)OC1=C(OC=CC1=O)C | C8H10O3
